US06495568B1
3-Methylthiophenylboronic Acid
A solution of 3-bromothioanisole (10.3 g, 50.9 mmol) in anhydrous tetrahydrofuran (15 ml) was added dropwise to a stirred mixture of magnesium turnings (1.86 g, 75 mmol) and a crystal of iodine under nitrogen. Once the reaction was initiated, the remainder of the solution was added at such a rate as to keep the reaction mixture under reflux. When the addition was complete, the mixture was stirred under reflux for a further 1 hour, allowed to cool to room temperature and then added to a solution of trimethyl borate (5.8 ml, 51 mmol) in anhydrous tetrahydrofuran (25 ml), whilst keeping the internal temperature at about −10° C. The reaction mixture was allowed to warm to about 0° C., stirred for 30 minutes and then quenched with 2M hydrochloric acid. The resulting mixture was extracted with ether, then the combined extracts extracted, in turn, with 2M aqueous sodium hydroxide solution. The combined aqueous extracts were acidified with concentrated hydrochloric acid and extracted with ether. The combined ether extracts were dried (MgSO4) and evaporated under reduced pressure to provide the title compound (7.8 g, 100%) as a white solid. δ(DMSOd6): 2.45 (s,3H), 7.27 (m,2H), 7.54 (m,1H), 7.67 (s,1H), 8.05 (brs,2H),

reactant | 3-bromothioanisole | 50.9 mmol, 10.3 g | BrC=1C=C(C=CC1)SC | C7H7BrS
reactant | magnesium | 75 mmol, 1.86 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | trimethyl borate | 51 mmol, 5.8 ml | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-Methylthiophenylboronic Acid | 7.8 g, 100% | CSC=1C=C(C=CC1)B(O)O | C7H9BO2S
